US08486916B2
The saliva of each experimental group of Test Example 1 in the present specification was used to examine inhibitory activity against cholera toxin binding. 200 μl of an ethanol solution containing 0.1% ganglioside GM1 (w/v) was added to a 96-well plate for ELISA test. Then, the ganglioside GM1 was adsorbed thereonto by air-drying. The saliva of each experimental group was diluted 10 times with PBS containing 1% bovine serum albumin (BSA) and then reacted for 1 hour by the addition of a biotin-conjugated cholera toxin. 100 μl of the reaction solution was added to the plate for ELISA test, and the plate was left for 30 minutes. Then, the supernatant was removed. The plate for ELISA test was washed several times with PBS containing 0.05% Tween 20. Biotin-binding β-galactosidase was added thereto. The plate for ELISA test was left for a given length of time. Then, the supernatant was removed. The plate for ELISA test was washed several times again with PBS containing 0.05% Tween 20, and the contents in the plate were reacted for 30 minutes by the addition of 4-methylumbelliferyl galactose. Then, 4-methylumbelliferone produced was measured with a fluorophotometer (excitation wavelength: 360 nm, measurement wavelength: 460 nm). Then, an inhibition rate was calculated according to the following formula: Inhibition rate(%)={1−(A/B)}×100, wherein

reactant | ganglioside GM1 | CCCCCCCCCCCCCCCCCC(=O)N[C@@H](CO[C@H]1[C@@H]([C@H]([C@@H]([C@H](O1)CO)O[C@H]2[C@@H]([C@H]([C@H]([C@H](O2)CO)O[C@H]3[C@@H]([C@H]([C@H]([C@H](O3)CO)O)O[C@H]4[C@@H]([C@H]([C@H]([C@H](O4)CO)O)O)O)NC(=O)C)O[C@@]5(C[C@@H]([C@H]([C@@H](O5)[C@@H]([C@@H](CO)O)O)NC(=O)C)O)C(=O)O)O)O)O)[C@@H](/C=C/CCCCCCCCCCCCC)O | C73H131N3O31
reactant | ethanol | 200 μl | C(C)O | C2H6O
product | 4-methylumbelliferone | CC1=CC(=O)OC2=C1C=CC(=C2)O | C10H8O3
